US07960415B2
3-(Thiazol-2-ylamino)-1H-pyridin-2-one
To a solution of 3-Amino-1H-pyridin-2-one (2.0 g, 18.7 mmol) in water (2 mL) was added 15% HCl (10 mL, 18 mmol) followed by ammonium thiocyanate (1.5 g, 18 mmol) and the mixture was heated to reflux for two hours. Upon cooling the intermediate thiourea was found to precipitate as a red-brown solid. The mixture was filtered and the solid washed with water (5 mL). To a solution of the thiourea (1.3 g, 7.7 mmol) in EtOH (20 mL) and water (5 mL) was added chloroacetaldehyde (2.3 mL), 16.4 mmol) and the mixture was heated to reflux for four hours. On cooling, the mixture was diluted with EtOAc (30 mL) and washed with 10% NaHCO3 and brine. The organic phase was dried over MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography (100% EtOAc) to afford the title compound as a pale green solid (1.43 g, 40%): 1H NMR (400 MHz, CDCl3) δ 1.6 (1H, s), 6.45 (1H, t), 6.75 (1H, s), 7.05-7.10 (1H, m), 7.40-7.42 (1H, m), 8.35-8.5 (2H, m); M+H 194.1, M−H 192.1.

reactant | 3-Amino-1H-pyridin-2-one | 18.7 mmol, 2.0 g | NC=1C(NC=CC1)=O | C5H6N2O
reactant | HCl | 18 mmol, 10 mL | Cl | ClH
reactant | ammonium thiocyanate | 18 mmol, 1.5 g | [S-]C#N.[NH4+]
reactant | thiourea | NC(=S)N | CH4N2S
reactant | thiourea | 7.7 mmol, 1.3 g | NC(=S)N | CH4N2S
reactant | chloroacetaldehyde | 2.3 mL | ClCC=O | C2H3ClO
solvent | water | 2 mL | O | H2O
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | water | 5 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 3-(Thiazol-2-ylamino)-1H-pyridin-2-one | 1.43 g, 40% | S1C(=NC=C1)NC=1C(NC=CC1)=O | C8H7N3OS
